US06897231B2
B. 3-{3-[(1E)-2-(4-Chlorophenyl)vinyl]-1H-indazol-5-yl}-1H-1,2,4-triazole
Hydrolysis was performed by stirring 2-{3-[(1E)-2-(4-chlorophenyl)vinyl]-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazoyl}perhydro-2H-pyran in 4 mL of 4.0 N commercial solution of HCl in dioxane and 2 mL of 6.0 N aqueous HCl, at room temperature for 6.5 hours. The title compound was purified by column chromatography (5% MeOH in dichloromethane) and was isolated as a 98:2 mixture of isomers (0.040 g, 56.6% yield): 1H NMR (DMSO-d6) δ 14.4, 14.0 (2s, 1H), 13.4, 13.3 (2s, 11H), 8.7 (m, 1H), 8.1 (m, 2H), 7.8-7.4 (m, 7H); ES-MS (m/z) 322 [M+1]+.

reactant | 2-{3-[(1E)-2-(4-chlorophenyl)vinyl]-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazoyl}perhydro-2H-pyran | ClC1=CC=C(C=C1)/C=C/C1(NNC2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)C1OCCCC1 | C42H36ClN5O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | HCl | 6.0 N, 2 mL | Cl | ClH
product | 3-{3-[(1E)-2-(4-Chlorophenyl)vinyl]-1H-indazol-5-yl}-1H-1,2,4-triazole | 56.6% yield | ClC1=CC=C(C=C1)/C=C/C1=NNC2=CC=C(C=C12)C1=NNC=N1 | C17H12ClN5
